* source OUTAMP
V_VCC6         VG 0 56Vdc
V_VCC1         3_3V 0 3.3Vdc
R_R17         OUT_NEG 0  0.082  
R_R34         N531164 0  1k  
R_R15         0 N43914  100k  
R_R19         N43898 0  1k  
R_R1         N07172 VG  5k  
D_D7         N24798 N27962 D1N4149 
V_VCC4         V3 0 30Vdc
C_C1         N07172 N06299  100p   
R_R25         N43902 0  10k  
R_R2         N06834 N07172  100  
R_R22         N08478 N13824  2200  
R_R11         OUT_POS OUT_NEG  5  
D_D5         N24798 N27737 D1N4149 
R_R13         0 N15493  10k  
M_M2         N14863 N26838 N26922 N26922 IRF510
R_R5         N22751 N14863  2.2k  
M_M4         N27743 N27962 OUT_POS OUT_POS IRF510
X_U1         VP N13824 3_3V 0 N06335 AD8608/AD 
X_U5         N43914 N43902 3_3V 0 N43898 AD8608/AD 
R_R10         N30946 N07172  1  
V_VCC7         I_SET 0 3Vdc
V_V1         VP 0  
+PULSE 0.5 1 20us 1us 1us 60000us 10000us
R_R24         N08478 N15415  10k  
X_U25         N06335 N48676 3_3V M_UN0001 N531164 AD8608/AD 
R_R8         N27737 N27743  2.2k  
Q_Q5         N07172 N06299 N48676 QBC847/PLP 
R_R12         N15493 OUT_POS  120k  
V_VCC3         V2 0 20Vdc
R_R23         N15415 OUT_NEG  120k  
Q_Q2         N35884 N35328 VG QBC856/PLP 
X_D4         V2 N26922 BY249-300 
X_U3         I_SET N48888 3_3V 0 N48676 AD8608/AD 
R_R6         N26838 N26922  2.2k  
R_R21         N43898 N48888  2200  
Q_Q4         N07172 N06299 N06335 QBC847/PLP 
R_R26         N43898 N43902  100k  
R_R3         0 N35328  20k  
R_R9         N27962 OUT_POS  2.2k  
C_C2         N13824 N30946  300p   
X_D2         V3 N14863 BY249-300 
X_D6         V1 N27743 BY249-300 
R_R4         0 N35884  20k  
D_D3         N24798 N26838 D1N4149 
M_M3         N26922 N27737 N27743 N27743 IRF510
M_M1         V4 N22751 N14863 N14863 IRF510
R_R20         N48658 N07172  1  
V_VCC5         V4 0 40Vdc
D_D1         N24798 N22751 D1N4149 
C_C4         N48888 N48658  300p   
Q_Q1         N35328 N35328 VG QBC856/PLP 
Q_Q3         VG N06834 N24798 QBC847/PLP 
V_VCC2         V1 0 10Vdc
R_R18         N08478 0  1k  
R_R14         N43914 OUT_NEG  10k  
X_U4         N15493 N15415 3_3V 0 N08478 AD8608/AD 
C_C3         OUT_NEG OUT_POS  100u   
R_R7         N06299 3_3V  1k  
